US04333937
To a solution of 2-chloro-4-amino-6,7-dimethoxyquinazoline (2.0 g) in tetrahydrofuran (100 ml), methylamine was introduced over a period of 15 min. The reaction mixture was stirred for 2 hr at room temperature and evaporated. The residue was triturated with cold aqueous sodium carbonate solution and the solid was washed and dried to give 1.769 g of 2-chloro-4-methylamino-6,7-dimethoxyquinazoline. A portion of this compound was crystallized from methylene chloride-hexane to mp 216°-217° C.; ir (nujol mull) 3470 cm-1 ; nmr (DMSO-d6) δ 3.0 (d, 3H), 3.9 (s, 6H), 7.05 (s, 1H), 7.55 (s, 1H) and 8.3 (broad s, 1H); and Anal. Calcd for C11H12ClN3O2 : C, 52.07% H, 4.77% N, 16.56% and Found: C, 51.95% H, 4.70% N, 16.45%.

reactant | 2-chloro-4-amino-6,7-dimethoxyquinazoline | 2.0 g | ClC1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C10H10ClN3O2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | methylamine | CN | CH5N
product | 2-chloro-4-methylamino-6,7-dimethoxyquinazoline | 1.769 g | ClC1=NC2=CC(=C(C=C2C(=N1)NC)OC)OC | C11H12ClN3O2
